US07902369B2
2) Manufacture of 5-bromo-2-methyl-2-methoxy-1-indanone
640 mg of 60% of sodium hydroxide was added at room temperature to 20 ml solution of dimethylformamide with 850 mg of 5-bromo-2-methylcarbonyloxy-1-indanone obtained in the above 1). After stirring for 10 min at room temperature, 3.5 ml of methyl iodide was added and the mixture was stirred for 1 hour at room temperature. Then, 2 ml of dimethylformamide containing 5% water was added and further stirred for 1 hour at room temperature.

reactant | sodium hydroxide | 640 mg | [OH-].[Na+]
reactant | 5-bromo-2-methylcarbonyloxy-1-indanone | 850 mg | BrC=1C=C2CC(C(C2=CC1)=O)OC(=O)C | C11H9BrO3
reactant | methyl iodide | 3.5 ml | CI | CH3I
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-bromo-2-methyl-2-methoxy-1-indanone | BrC=1C=C2CC(C(C2=CC1)=O)(OC)C | C11H11BrO2
